US08012956B2
2,5-Dimethylterephthalic acid (3 g, 15.5 mmol) was suspended in ether (30 mL) and methanol (10 mL) and was cooled in an ice bath. (Trimethylsilyl)diazomethane (2 M solution in hexanes; 16 mL) was added drop-wise. The mixture was stirred at ambient temperature for 0.5 h and then was quenched with acetic acid (2 mL) and was concentrated. The residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic portion was washed with brine, dried over sodium sulfate, then filtered and was concentrated to afford dimethyl 2,5-dimethylterephthalate (3.18 g, 14.3 mmol, 93% yield). 1H NMR (400 MHz, CDCl3): δ 7.76 (s, 2H), 3.91 (s, 6H), 2.57 (s, 6H); MS (EI) for C12H14O4: 223 (MH+).

reactant | 2,5-Dimethylterephthalic acid | 15.5 mmol, 3 g | CC1=C(C(=O)O)C=C(C(=C1)C(=O)O)C | C10H10O4
reactant | methanol | 10 mL | CO | CH4O
reactant | (Trimethylsilyl)diazomethane | 2 M, 16 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | ether | 30 mL | CCOCC | C4H10O
product | dimethyl 2,5-dimethylterephthalate | 14.3 mmol, 3.18 g, 93% yield | CC1=C(C(=O)OC)C=C(C(=C1)C(=O)OC)C | C12H14O4
